US04579847
6-amino-3-benzylidene-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazoline-9-one (2.5 g) was reacted with 3-carbometoxy propionyl chloride (1.95 g) in dimethylacetamide (110 ml) in the presence of pyridine (2 ml) at room temperature for 18 hours. The reaction mixture was then diluted with ice water and the precipitate was filtered and washed with water to give 3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-propanoic acid methyl ester, m.p. 288°-291° C. (3.3 g) which was dissolved in dimethylformamide (120 ml) and treated with 5% aqueous NaOH (32.5 ml) at room temperature for 3 hours. The precipitate, 3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-propanoic acid, sodium salt, m.p. >300° C., was filtered and washed with water, then it was dissolved in formic acid and the solution was diluted with water to give a precipitate which was filtered and washed with water until neutral to give 2.07 g of 3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-propanoic acid, m.p. 250°-255° C. dec., NMR (DMSO d6) δ ppm., 2.62 (bs) (4H, --COCH2CH2 --COOH), 3.18 (m) (2H, C-2 protons), 4.08 (t) (2H, C-1 protons), 7.30-7.70 (m) (7H, C-5 and C-7 protons and phenyl protons), 7.98 (d) (1H, C-8 proton), 8.07 (t) (1H, --CH=), 10.31 (ds) (1H, --NHCO--).

reactant | 6-amino-3-benzylidene-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazoline-9-one | 2.5 g | NC=1C=CC=2C(N3C(=NC2C1)C(CC3)=CC3=CC=CC=C3)=O | C18H15N3O
reactant | 3-carbometoxy propionyl chloride | 1.95 g | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylacetamide | 110 ml | CC(=O)N(C)C | C4H9NO
product | 3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-propanoic acid methyl ester | COC(CCC(=O)NC=1C=CC=2C(N3C(=NC2C1)C(CC3)=CC3=CC=CC=C3)=O)=O | C23H21N3O4
